US09422281B2
The crude (S)-1-(6-bromo-4-(2-fluorobenzoyl)-2-methyl-3,4-dihydroquinoxalin-1(2H)-yl)-2,2,2-trifluoroethanone (0.686 g, 1.54 mmol) was dissolved in methanol (ca. 5-10 mL) and 10% aqueous potassium carbonate solution (23 mL, 1.7 mmol) was added. After 10 min, the reaction mixture was concentrated under reduced pressure in order to remove the methanol. The residue was then partitioned between ethyl acetate and water (ca. 5-8 mL). The organic layer was separated and washed with 5% aqueous sodium chloride solution (8 mL) and then concentrated under reduced pressure. The crude product was dissolved in toluene and concentrated. The residue was purified by column chromatography on silica gel (eluting with 4:1 hexanes-ethyl acetate followed by 2:1 hexanes-ethyl acetate) to afford (S)-(7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-yl)(2-fluorophenyl)methanone (0.415 g, 77%). MS (ESI, pos. ion) m/z 349, 351 [M+1].

reactant | (S)-1-(6-bromo-4-(2-fluorobenzoyl)-2-methyl-3,4-dihydroquinoxalin-1(2H)-yl)-2,2,2-trifluoroethanone | 1.54 mmol, 0.686 g | BrC=1C=C2N(C[C@@H](N(C2=CC1)C(C(F)(F)F)=O)C)C(C1=C(C=CC=C1)F)=O | C18H13BrF4N2O2
reactant | potassium carbonate | 1.7 mmol, 23 mL | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | ca. 5-10 mL | CO | CH4O
product | (S)-(7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-yl)(2-fluorophenyl)methanone | 0.415 g, 77% | BrC1=CC=C2N[C@H](CN(C2=C1)C(=O)C1=C(C=CC=C1)F)C | C16H14BrFN2O
